US06777406B2
(±)-cis-6,7,9,9a,10,11,12,12a-octahydro-5H-[1,4]oxazepino[2,3,4-ij]pyrrolo[3,4-c]quinoline, bis-hydrochloride salt
To absolution of (+)-cis tert-butyl 6,7,9a,10,12,12a-hexahydro-5H-[1,4]oxazepino[2,3,4-ij]pyrrolo[3,4-c]quinoline-11(9H)-carboxylate (250 mg, 0.76 mmol) in 15 mL of methylene chloride was added trifluoroacetic acid (4 mL). This mixture was stirred at ambient temperature for 2 h and then concentrated in vacuo. The residue was basified with sat'd aq Na2CO3 and extracted with chloroform. The organics were washed with brine, dried (K2CO3) and concentrated in vacuo to afford the free base. This material was purified by preparative HPLC (C18 reverse phase column, elution with a H2O/CH3CN gradient with 0.5% TFA) and the product containing fractions were concentrated, basified with sat'd aq Na2CO3 and extracted twice with ethyl acetate. The organics were washed with brine, dried (Na2SO4) and concentrated to a free base. A portion of the residue (30 mg, 0.13 mmol) was taken up in about 4:1 ether/ethanol and then there was added 2M HCl in ether (0.2 mL, 0.39 mmol). The resulting solid was filtered, washed twice with ether and dried in vacuo to afford the title compound of EXAMPLE 121 as an off-white powder. 1H NMR (dmso-D6) δ: 9.52 (broad s, 1H), 9.30 (broad s, 1H), 6.90-6.83 (m, 1H), 6.75-6.70 (m, 2H), 4.60 (dt, 1H, J=12.0, 5.1 Hz), 3.77-3.63 (m, 2H), 3.52-3.45 (m, 1H), 3.40-3.25 (m, 2H), 3.19-3.06 (m, 2H), 3.05-2.85 (m, 2H), 2.84 (t, 1H, J=12.0 Hz), 2.65-2.55 (m, 1H), 2.08-1.97 (m, 1H), 1.90-1.79 (m, 1H). LRMS (ES)+: 231.0 (M+H)+.

reactant | (+)-cis tert-butyl 6,7,9a,10,12,12a-hexahydro-5H-[1,4]oxazepino[2,3,4-ij]pyrrolo[3,4-c]quinoline-11(9H)-carboxylate | 0.76 mmol, 250 mg | C1=C2[C@@H]3[C@H](CN4C2=C(C=C1)OCCC4)CN(C3)C(=O)OC(C)(C)C | C19H26N2O3
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | HCl | 2M | Cl | ClH
reactant | ether | 0.39 mmol, 0.2 mL | CCOCC | C4H10O
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | ether ethanol | CCOCC.C(C)O
product | (±)-cis-6,7,9,9a,10,11,12,12a-octahydro-5H-[1,4]oxazepino[2,3,4-ij]pyrrolo[3,4-c]quinoline, bis-hydrochloride salt | Cl.Cl.C1=C2[C@@H]3[C@H](CN4C2=C(C=C1)OCCC4)CNC3 | InChI=1S/C14H18N2O.2ClH/c1-3-11-12-8-15-7-10(12)9-16-5-2-6-17-13(4-1)14(11)16;;/h1,3-4,10,12,15H,2,5-9H2;2*1H/t10-,12-;;/m0../s1
